US05968920
PROTECTION OF ENDOTHELIAL CELLS SUBJECTED TO AN OXIDIZING STRESS INDUCED BY LINOLEIC ACID HYDROPEROXIDE
Human endothelial cells were cultivated at 37° C. in Leighton tubes and in an atmosphere of saturated humidity constituted by a gaseous mixture of 95% air and 5% of CO2. The culture medium was constituted by an EGM (Clonetics) medium, pH=7.4 containing 2% of foetal calf serum, 10 ng/ml of recombinant human growth factor EGF, 10 μg/ml of heparin, 50 μm/ml of gentamicin and 50 μg/ml of amphotericin B.

reactant | CO2 | C(=O)=O | CO2
reactant | gentamicin | C[C@H]([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)NC | C21H43N5O7
reactant | amphotericin B | C[C@H]1/C=C/C=C/C=C/C=C/C=C/C=C/C=C/[C@@H](C[C@H]2[C@@H]([C@H](C[C@](O2)(C[C@H](C[C@H]([C@@H](CC[C@H](C[C@H](CC(=O)O[C@H]([C@@H]([C@@H]1O)C)C)O)O)O)O)O)O)O)C(=O)O)O[C@H]3[C@H]([C@H]([C@@H]([C@H](O3)C)O)N)O | C47H73NO17
product | LINOLEIC ACID HYDROPEROXIDE | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)OO | C18H32O3
